US04719200
L-alanyl-L-prolyl-L-proline benzylester hydrochloride (2.46 g, 6 m mole) was dissolved in dimethylformamide (10 ml), and triethylamine (0.84 ml, 6 m mole) was added thereto under cooling to neutralize it. Benzyloxycarbonyl-L-phenylalanine N-hydroxysuccinimide ester (2.62 g, 6.6 m mole) was added thereto. The reaction solution was stirred for 2 days while it had bean adjusting to pH around 7 with triethylamine, and then ethyl acetate (150 ml) was added thereto. The mixture was washed with 1N hydrochloric acid, 5% aqueous sodium bicarbonate, and water in order. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was distilled off under reduced pressure. The thus obtained residue was recrystallized with ethyl acetate to give N-benzyloxycarbonyl-L-phenylalanyl-L-alanyl-L-prolyl-L-proline benzylester (3.2 g). The product as produced above (3 g) was dissolved in methanol (100 ml) and hydrogen gas was passed through the solution in the presence of palladium-carbon as a catalyst for 5 hours. The catalyst was separated by filtration and the solvent was distilled off from the filtrate. The thus obtained residue was recrystallized with methanolether to give L-phenylalanyl-L-alanyl-L-prolyl-L-proline (1.4 g).

reactant | L-alanyl-L-prolyl-L-proline benzylester hydrochloride | 2.46 g | Cl.C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](N)C)=O)=O)=O
reactant | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-benzyloxycarbonyl-L-phenylalanyl-L-alanyl-L-prolyl-L-proline benzylester | 3.2 g | C(C1=CC=CC=C1)OC([C@H]1N(CCC1)C([C@H]1N(CCC1)C([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CC1=CC=CC=C1)=O)C)=O)=O)=O | C37H42N4O7
